US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 4-methyl-3-thiopheneboronic acid to give [1-(4-methyl-thiophen-3-yl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine. LC-MS m/e 307(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 4-methyl-3-thiopheneboronic acid | CC=1C(=CSC1)B(O)O | C5H7BO2S
product | [1-(4-methyl-thiophen-3-yl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine | CC=1C(=CSC1)C1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C17H14N4S
